US08383644B2
(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester (72 mg), EDCI (33 mg), HOBt (24 mg), and (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (59 mg) were suspended in 3 mL DCM and NMM (0.067 mL) added. The mixture was stirred at room temperature for 3 hours and the mixture was directly purified over silica (hexanes to 1:1 hexanes/EtOAc to 1:1 hexanes/EtOAc+1% MeOH) to give (3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (86 mg). LCMS: (m/z) 791.

reactant | (3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester | 72 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3 | C30H37NO7
reactant | EDCI | 33 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 24 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 59 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)N)=O
reactant | NMM | 0.067 mL | CN1CCOCC1 | C5H11NO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 86 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3 | C47H55N3O8
